US04678792
(a) N-(2-Chlorobenzyl)-2-(3,4-dimethoxyphenyl)-ethylamine
2-(3,4-Dimethoxyphenyl)-ethylamine (80.3 g, 0.443 mol) and o-chlorobenzaldehyde (62 g, 0.443 mol) are boiled (1 hour) in toluene (500 ml) using a water separator. The reaction mixture is evaporated, the oily residue is taken up in methanol (500 ml) and combined, under vigorous stirring and intensive cooling, with a solution of sodium borohydride (16.9 g, 0.443 mol) in water (50 ml). After it has all been added, the resulting mixture is stirred (1 hour) at ambient temperature, concentrated in vacuo and the residue is distilled in vacuo. Yield: 108.8 g. Bp16.9 Pa : 188°-190° C.

reactant | 2-(3,4-Dimethoxyphenyl)-ethylamine | 0.443 mol, 80.3 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | o-chlorobenzaldehyde | 0.443 mol, 62 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | sodium borohydride | 0.443 mol, 16.9 g | [BH4-].[Na+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
product | N-(2-Chlorobenzyl)-2-(3,4-dimethoxyphenyl)-ethylamine | ClC1=C(CNCCC2=CC(=C(C=C2)OC)OC)C=CC=C1 | C17H20ClNO2
